US05091432
Synthesis of 4-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-oxopropyl]amino]butanoic acid, methyl ester (AIT-0092)
0.300 g (0.9111 mmol) of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propanoic acid, 4-nitrophenyl ester (AIT-0081) and 0.142 g (0.925 mmol) of gamma amino butyric acid, methyl ester hydrochloride were placed into a 10 ml round bottom flask with a magnetic stirring bar and 2 ml dimethylsulfoxide. To this solution was added 0.100 g (0.988 mmol) of triethylamine. The solution immediately turned green and was stirred at room temperature for one hour. Then 5 ml of acetone was added and the solution was filtered. The mother liquor was treated with ether (approximately 35 ml) to precipitate the product. Upon filtration and washing with ether, 232 mg of a white solid 4-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-oxopropyl]amino]butanoic acid, methyl ester (AIT-0092) was obtained. Yield: 83%.

reactant | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propanoic acid, 4-nitrophenyl ester | 0.9111 mmol, 0.300 g | O=C1C=2N=CN(C2N=CN1)CCC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C14H11N5O5
reactant | gamma amino butyric acid, methyl ester hydrochloride | 0.925 mmol, 0.142 g | Cl.NCCCC(=O)OC
reactant | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
reactant | triethylamine | 0.988 mmol, 0.100 g | C(C)N(CC)CC | C6H15N
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 4-[[3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-1-oxopropyl]amino]butanoic acid, methyl ester | 232 mg, Yield: 83% | O=C1C=2N=CN(C2N=CN1)CCC(=O)NCCCC(=O)OC | C13H17N5O4
